US04918195
Benzotriazole (for comparison)
108 g of freshly distilled 99.8% pure o-phenylenediamine were suspended in 125 ml of methanol and heated to 50° C. At this temperature, gaseous methyl nitrite, prepared from sodium nitrite solution (25% strength), methanol and sulphuric acid (48% strength), was introduced. The rate of addition was such that no off-gas left the reaction flask. As soon as the reaction mixture did not absorb any more gas (about 2 hours), a sample was removed and tested for complete conversion. This was followed by first distilling off methanol and then water from the reaction mixture. With the addition of polywax (polydiol 1550) as a lubricant, the mixture was then distilled continuously through a thin-film evaporator at 4 mbar and a heater temperature of 220° C. Benzotriazole came over at about 165° C. and 4 mbar. Such freshly distilled benzotriazole is 99.9% pure, as analyzed by gas chromatography. It has a slightly yellow colour. On standing for several weeks, the pale yellow colour fades to a palate beige colour.

reactant | o-phenylenediamine | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | methyl nitrite | N(=O)OC | CH3NO2
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 125 ml | CO | CH4O
product | Benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
